US09382188B2
A) ethyl 3-(2-(((2-(2-cyano-2-methylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)pyridin-4-yl)-3-cyclopropylpropanoate
To a solution of 3-(2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)-2,2-dimethylpropanenitrile (151 mg), ethyl 3-cyclopropyl-3-(2-(hydroxymethyl)pyridin-4-yl)propanoate (168 mg) and tributylphosphine (0.25 mL) in toluene (5.0 mL) was added 1,1′-(azodicarbonyl)dipiperidine (256 mg), and the mixture was stirred at room temperature for 3 hr. Hexane was added to the reaction mixture, and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (234 mg) as a colorless oil.

reactant | 3-(2′-fluoro-4-hydroxy-5′-methoxybiphenyl-2-yl)-2,2-dimethylpropanenitrile | 151 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)CC(C#N)(C)C | C18H18FNO2
reactant | ethyl 3-cyclopropyl-3-(2-(hydroxymethyl)pyridin-4-yl)propanoate | 168 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=NC=C1)CO | C14H19NO3
reactant | tributylphosphine | 0.25 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 256 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | Hexane | CCCCCC | C6H14
product | ethyl 3-(2-(((2-(2-cyano-2-methylpropyl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)pyridin-4-yl)-3-cyclopropylpropanoate | 234 mg | C(#N)C(CC1=C(C=CC(=C1)OCC1=NC=CC(=C1)C(CC(=O)OCC)C1CC1)C1=C(C=CC(=C1)OC)F)(C)C | C32H35FN2O4
